US06562811B1
tert-butyl 2′-amino-3′-(hydroxymethyl)-6′-{2-[(4-methoxybenzyl)oxy]phenyl}-5,6-dihydro-3,4′-bipyridine-1(2H)-carboxylate (25.0 mg, 0.05 mmol) was treated with 2N HCl in dioxane (4.0 mL) overnight at room temperature. The resulting solid was collected by filtration, washed with ether and dried under reduced pressure to give 2-[6′-amino-5′-(hydroxymethyl)-1,2,5,6-tetrahydro-3,4′-bipyridin-2′-yl]phenol hydrochloride. (14 mg, yield 87%).

reactant | tert-butyl 2′-amino-3′-(hydroxymethyl)-6′-{2-[(4-methoxybenzyl)oxy]phenyl}-5,6-dihydro-3,4′-bipyridine-1(2H)-carboxylate | 0.05 mmol, 25.0 mg | NC1=NC(=CC(=C1CO)C=1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)OCC1=CC=C(C=C1)OC | C30H35N3O5
reactant | HCl | 2N | Cl | ClH
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | 2-[6′-amino-5′-(hydroxymethyl)-1,2,5,6-tetrahydro-3,4′-bipyridin-2′-yl]phenol hydrochloride | yield 87% | Cl.NC1=C(C(=CC(=N1)C1=C(C=CC=C1)O)C=1CNCCC1)CO | InChI=1S/C17H19N3O2.ClH/c18-17-14(10-21)13(11-4-3-7-19-9-11)8-15(20-17)12-5-1-2-6-16(12)22;/h1-2,4-6,8,19,21-22H,3,7,9-10H2,(H2,18,20);1H
